US09227978B2
tert-butyl 5-(3,4-dichlorobenzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
To a solution of acid 3,4-dichlorobenzoic acid (0.45 g, 2.36 mmol), tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (0.5 g, 2.36 mmol) and HOBt (0.4 g, 2.83 mmol) in DMF (15 mL), EDCI.HCl (0.54 g, 2.83 mmol) and DIEA (1.5 g, 11.5 mmol) were added. The mixture was stirred at room temperature overnight and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the crude product which was used directly in the next step.

reactant | 3,4-dichlorobenzoic acid | 2.36 mmol, 0.45 g | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 2.36 mmol, 0.5 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | HOBt | 2.83 mmol, 0.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 2.83 mmol, 0.54 g | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 11.5 mmol, 1.5 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(3,4-dichlorobenzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | ClC=1C=C(C(=O)N2CC3C(C2)CN(C3)C(=O)OC(C)(C)C)C=CC1Cl | C18H22Cl2N2O3
